US07173135B2
3-cyano-7-ethoxy-6-methoxy-4-[4-(3-methoxyprop-1-ynyl)-2,3-methylenedioxyanilino]quinoline monohydrochloride salt
Sodium hexamethyldisilazane (1M solution in THF; 1.17 ml) was added to a stirred mixture of 4-(3-methoxyprop-1-ynyl)-2,3-methylenedioxyaniline (0.12 g), 4-chloro-3-cyano-7-ethoxy-6-methoxyquinoline (0.146 g) and DMF (8 ml) that had been cooled to 0° C. and the resultant mixture was allowed to warm to ambient temperature and was stirred for 2 hours. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic phase was washed with water and with a saturated brine solution, dried over magnesium sulphate and evaporated. The residue was purified by column chromatography on silica increasingly polar mixtures of methylene chloride and methanol as eluent. The material so obtained was dissolved in the minimum quantity of methylene chloride. The solution was diluted with diethyl ether and a solution of hydrogen chloride in diethyl ether (1M) was added. The resultant solid was isolated, washed with diethyl ether and dried. Thereby, the product was obtained the title compound (0.18 g); NMR Spectrum: (DMSOd6) 1.44 (t, 3H), 3.33 (s, 3H), 4.0 (s, 3H), 4.24 (q, 2H), 4.36 (s, 2H), 6.12 (s, 2H), 6.96 (d, 1H), 7.03 (d, 1H), 7.45 (s, 1H), 8.11 (s, 1H), 8.96 (s, 1H); Mass Spectrum: M+H+ 432.

reactant | Sodium hexamethyldisilazane | 1M, 1.17 ml | C[Si](N[Si](C)(C)C)(C)C.[Na]
reactant | 4-(3-methoxyprop-1-ynyl)-2,3-methylenedioxyaniline | 0.12 g | COCC#CC1=C2C(=C(N)C=C1)OCO2 | C11H11NO3
reactant | 4-chloro-3-cyano-7-ethoxy-6-methoxyquinoline | 0.146 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OCC)C#N | C13H11ClN2O2
reactant | hydrogen chloride | Cl | ClH
solvent | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 1M | C(C)OCC | C4H10O
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 3-cyano-7-ethoxy-6-methoxy-4-[4-(3-methoxyprop-1-ynyl)-2,3-methylenedioxyanilino]quinoline monohydrochloride salt | 0.18 g | Cl.C(#N)C=1C=NC2=CC(=C(C=C2C1NC1=C2C(=C(C=C1)C#CCOC)OCO2)OC)OCC | InChI=1S/C24H21N3O5.ClH/c1-4-30-21-11-19-17(10-20(21)29-3)22(16(12-25)13-26-19)27-18-8-7-15(6-5-9-28-2)23-24(18)32-14-31-23;/h7-8,10-11,13H,4,9,14H2,1-3H3,(H,26,27);1H
